US04689171
When the process according to Example 190a is carried out and, instead of the anthraquinone component mentioned there, 11.7 g of 1,5-diamino-4,8-dihydroxy-2,6-dibromoanthraquinone, compare Example 348a, are used, then 3.8 g, corresponding to 31% of theory, of 1,5-diamino-4,8-dihydroxy-2-phenoxy-6-bromoanthraquinone are obtained.

reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | 1,5-diamino-4,8-dihydroxy-2,6-dibromoanthraquinone | 11.7 g | NC1=C(C=C(C=2C(C3=C(C(=CC(=C3C(C12)=O)O)Br)N)=O)O)Br | C14H8Br2N2O4
product | 1,5-diamino-4,8-dihydroxy-2-phenoxy-6-bromoanthraquinone | NC1=C(C=C(C=2C(C3=C(C(=CC(=C3C(C12)=O)O)Br)N)=O)O)OC1=CC=CC=C1 | C20H13BrN2O5
